US07244845B2
A mixture of 4′-isopropoxycarbonylaminobiphenyl-4-sulfonic acid sodium salt (283 g, 0.79 mol), toluene (700 ml) and pyridine (35 ml, 0.43 mol) was stirred vigorously at RT and POCl3 (215 ml) was slowly added dropwise such that the internal temperature was kept between 30° C. and 45° C. Subsequently, PCl5 (100 g) was added at 35° C. in about 6 portions and the mixture was heated to 60° C. within 30 min. Afterward, further PCl5 (100 g) was added at 70° C. within 15 min and the mixture was left to stir without further heating for 1 h. In this time, the internal temperature fell to about 30° C. The mixture was diluted with dichloromethane (500 ml) and then worked up. To this end, a mixture of ice-water (5 kg), saturated NaCl solution (1000 ml) and dichloromethane (1000 ml) was initially charged with vigorous stirring and the reaction mixture was slowly added dropwise. In this time, the temperature was kept at from 15° C. to 25° C. by adding ice (2 kg). Subsequently, stirring was continued for 1 h, in the course of which the temperature was allowed to rise up to 30° C. The phases were separated and the aqueous phase was extracted twice using dichloromethane (1500 ml). The combined organic phases were reextracted using water (8000 ml), dried over Na2SO4 and concentrated by evaporation under reduced pressure. About 360 g of crude product were obtained as beige crystals. These were taken up in dichloromethane and filtered through a silica gel layer (15×30 cm, 70–200 μm), the layer was rinsed using dichloromethane and the filtrate was concentrated by evaporation. 270 g (96%) of isopropyl(4′-chlorosulfonylbiphenyl-4-yl)carbamate were obtained as yellow crystals.

reactant | 4′-isopropoxycarbonylaminobiphenyl-4-sulfonic acid sodium salt | 0.79 mol, 283 g | [Na+].C(C)(C)OC(=O)NC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | pyridine | 0.43 mol, 35 ml | N1=CC=CC=C1 | C5H5N
reactant | POCl3 | 215 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | PCl5 | 100 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | PCl5 | 100 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | NaCl | 1000 ml | [Na+].[Cl-]
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
product | isopropyl(4′-chlorosulfonylbiphenyl-4-yl)carbamate | 270 g, 96% | C(C)(C)OC(NC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)Cl)=O | C16H16ClNO4S
